US07713979B2
4-{3,5-Dichloro-4-[1-(4-hydroxy-cyclohexyl)-2-oxo-pyrrolidin-3-ylmethyl]-phenoxy }-benzoic acid methyl ester
Dissolve 90 mg of 4-(4-{1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-3-ylmethyl}-3,5-dichloro-phenoxy)-benzoic acid methy ester (Preparation 73) in 10 mL EtOH and treat with 1 mL 1 N aqueous HCl. Heat at 60° C. for 2 hours. Concentrate to dryness under vacuum and purify by radial chromatography using 5% MeOH in CHCl3 to recover 73 mg of product. Mass spectrum (api-es) m/z 492 (M+H).

reactant | 4-(4-{1-[cis-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-3-ylmethyl}-3,5-dichloro-phenoxy)-benzoic acid methy ester | 90 mg | COC(C1=CC=C(C=C1)OC1=CC(=C(C(=C1)Cl)CC1C(N(CC1)[C@@H]1CC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O)Cl)=O | C31H41Cl2NO5Si
reactant | HCl | 1 N, 1 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-{3,5-Dichloro-4-[1-(4-hydroxy-cyclohexyl)-2-oxo-pyrrolidin-3-ylmethyl]-phenoxy }-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=CC(=C(C(=C1)Cl)CC1C(N(CC1)C1CCC(CC1)O)=O)Cl)=O | C25H27Cl2NO5
